US07569579B2
Preparation 34: (1R,2R)-1-(3-chlorophenyl)-2-{2-[(phenylmethyl)oxy]ethyl}cyclopropanecarbonitrile
3.2 mL 1M LHMDS in hexanes (3.2 mmol) was added to 15 mL of DMF and cooled to −40° C. To this was added a solution of (1S)-3-(3-chlorophenyl)-3-cyano-1-(2-[(phenylmethyl)oxy]ethyl}propyl 4-methylbenzenesulfonate (1.00 g, 2.12 mmol) in 5 mL of DMF over 10 minutes and stirred for 40 minutes After warming to room temperature the reaction was stirred until no starting material remained by TLC. The reaction mixture was poured into 100 mL water, extracted with 50 mL EtOAc, the organic phase isolated, washed with brine and dried over MgSO4. The resulting residue was purified by silica gel chromatography with 25% EtOAc in hexanes to give the title compound (436 mg, 65% yield). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.4 (dd, J=7.5, 5.6 Hz, 1H) 1.5 (m, 1H) 1.7 (m, 1H) 2.0 (m, 2H) 3.6 (m, 2H) 4.5 (d, J=2.2 Hz, 2H) 7.1 (m, 1H) 7.2 (m, 3H) 7.3 (m, 5H).

reactant | LHMDS | 1M, 3.2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (1S)-3-(3-chlorophenyl)-3-cyano-1-(2-[(phenylmethyl)oxy]ethyl}propyl 4-methylbenzenesulfonate | 2.12 mmol, 1.00 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](CC(C#N)C1=CC(=CC=C1)Cl)CCOCC1=CC=CC=C1 | C26H26ClNO4S
reactant | water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (1R,2R)-1-(3-chlorophenyl)-2-{2-[(phenylmethyl)oxy]ethyl}cyclopropanecarbonitrile | 436 mg, 65% yield | ClC=1C=C(C=CC1)[C@@]1([C@H](C1)CCOCC1=CC=CC=C1)C#N | C19H18ClNO
